US08202873B2
Add 5-(4-bromophenyl)-1,3-oxazole (21.78 mmol, 4.88 g) to 1,4-dioxane (80 mL), then add 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (26.14 mmol, 6.64 g), potassium acetate (65.34 mmol, 6.41 g), 1,1′-bis(diphenylphosphino)ferrocene (1.09 mmol, 603.74 mg), and (1,1′-bis(diphenylphosphino)ferrocene)palladium(II) chloride (1.09 mmol, 889.34 mg). Reflux at 80° C. for 24 hr. Pour reaction onto 2 M sodium hydroxide (about 50 mL) and ethyl acetate (about 100 mL), filter through celite, separate organics, dry over magnesium sulfate, filter, and concentrate in vacuo to give a black solid. Purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate: hexane) to give 5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazole as a white solid (1.90 g; 32% yield). MS (ES): m/z=272 [M+H]+.

reactant | 5-(4-bromophenyl)-1,3-oxazole | 21.78 mmol, 4.88 g | BrC1=CC=C(C=C1)C1=CN=CO1 | C9H6BrNO
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 26.14 mmol, 6.64 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 65.34 mmol, 6.41 g | C(C)(=O)[O-].[K+]
reactant | sodium hydroxide | 2 M, about 50 mL | [OH-].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.09 mmol, 603.74 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethyl acetate | about 100 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazole | 32% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=CN=CO1)C | C15H18BNO3
